US07214800B2
2-{1-[4-(2-Amino-ethyl)-2-p-tolyl-imidazol-1-yl]-2-methyl-propyl}-3-benzyl-7-chloro-3H-quinazolin-4-one
A solution of 2-(2-{1-[1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propyl]-2-p-tolyl-1H-imidazol-4-yl }-ethyl)-isoindole-1,3-dione (278 mg, 0.423 mmol) and anhydrous hydrazine (98 mg, 3.06 mmol) in EtOH (12 mL) was refluxed for 3.0 h. The reaction was cooled to 5° C. and a white precipitate was filtered off. The filtrate was concentrated in vacuo and purified by flash chromatography (silica gel, 90:9:1 methylene chloride:methanol:ammonium hydroxide as eluent) to provide the title compound as a white solid (98.2 mg, 45%). MS(ES+) m/e 526 [M+H]+.

reactant | 2-(2-{1-[1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propyl]-2-p-tolyl-1H-imidazol-4-yl }-ethyl)-isoindole-1,3-dione | 0.423 mmol, 278 mg | C(C1=CC=CC=C1)N1C(=NC2=CC(=CC=C2C1=O)Cl)C(C(C)C)N1C(=NC(=C1)CCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=C(C=C1)C | C39H34ClN5O3
reactant | hydrazine | 3.06 mmol, 98 mg | NN | H4N2
solvent | EtOH | 12 mL | CCO | C2H6O
product | 2-{1-[4-(2-Amino-ethyl)-2-p-tolyl-imidazol-1-yl]-2-methyl-propyl}-3-benzyl-7-chloro-3H-quinazolin-4-one | 98.2 mg, 45% | NCCC=1N=C(N(C1)C(C(C)C)C1=NC2=CC(=CC=C2C(N1CC1=CC=CC=C1)=O)Cl)C1=CC=C(C=C1)C | C31H32ClN5O
